US04845100
1.7 Grams of 2-(4-methoxybenzoyl)ethyl bromide, 1.4 g of 6-(1-piperazinylcarbonyl)-3,4-dihydrocarbostyril monohydrochloride and 1.4 g of potassium carbonate were suspended in 40 ml of dimethylformamide, then the suspension thus prepared was stirred at room temperature for 2 hours. After the reaction was finished, the reaction mixture was poured in 150 ml of water, and extracted with ethyl acetate. The extract was washed with water, dried then the solvent was removed by evaporation. The residue thus obtained was dissolved in methanol, and the pH of the methanol solution was adjusted to about pH=1 with hydrochloric acid. The solvent was removed by evaporation, then the residue was recrystallized from ethanol-water to obtain 3 g of 6-{4-[(2-methoxybenzoyl)ethyl]-1-piperazinylcarbonyl}-3,4-dihydrocarbostyril monohydrochloride monohydrate. Melting point: 204°-205° C. (dec.). Colorless rhombohedral crystals.

reactant | 2-(4-methoxybenzoyl)ethyl bromide | COC1=CC=C(C(=O)CCBr)C=C1 | C10H11BrO2
reactant | 6-(1-piperazinylcarbonyl)-3,4-dihydrocarbostyril monohydrochloride | 1.4 g | Cl.N1(CCNCC1)C(=O)C=1C=C2CCC(NC2=CC1)=O
reactant | potassium carbonate | 1.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | water | 150 ml | O | H2O
solvent | methanol | CO | CH4O
product | 6-{4-[(2-methoxybenzoyl)ethyl]-1-piperazinylcarbonyl}-3,4-dihydrocarbostyril monohydrochloride monohydrate | 3 g | O.Cl.COC1=C(C(=O)CCN2CCN(CC2)C(=O)C=2C=C3CCC(NC3=CC2)=O)C=CC=C1 | InChI=1S/C24H27N3O4.ClH.H2O/c1-31-22-5-3-2-4-19(22)21(28)10-11-26-12-14-27(15-13-26)24(30)18-6-8-20-17(16-18)7-9-23(29)25-20;;/h2-6,8,16H,7,9-15H2,1H3,(H,25,29);1H;1H2
